US09212187B2
1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carboxylic acid
To a t-butanol (20 ml) and H2O (5 ml) solution of 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbaldehyde (2.25 g) and 2-methyl-2-butene(3.25 ml) were added sodium dihydrogenphosphate (0.92 g) and sodium chlorite (2.081 g), and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was dried with sodium sulfate, and was condensed under reduced pressure to give the title compound (0.98 g) as a white powder.

reactant | 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbaldehyde | 2.25 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)C=O | C15H18N2O3
reactant | 2-methyl-2-butene | 3.25 ml | CC(C)=CC | C5H10
reactant | sodium dihydrogenphosphate | 0.92 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 2.081 g | Cl(=O)[O-].[Na+]
solvent | Water | O | H2O
solvent | H2O | 5 ml | O | H2O
solvent | t-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | 1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carboxylic acid | 0.98 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)C(=O)O | C15H18N2O4
